US07169780B2
Step 6: Methyl-5-(benzoyloxy)-2-{(2S,4R)-1-[(benzyloxy)carbonyl]-4-methoxypyrrolidin-2-yl}-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxylate
To methyl 5-(benzoyloxy)-2-{(2S,4R)-1-[(benzyloxy)carbonyl]-4-methoxypyrrolidin-2-yl}-6-hydroxypyrimidine-4-carboxylate, dissolved in dioxane, LiH (1.4 eq.) was added and the reaction mixture stirred at 38° C. for 40 minutes. The temperature was raised to 60° C. and dimethyl sulphate (1.3 eq.) was added dropwise. After two hours the reaction mixture was cooled down to 0° C. and HCl 1 N was added to quench the reaction. The reaction mixture was extracted with ethyl acetate and the organic phase washed with HCl 1N, saturated aqueous NaHCO3 and brine, dried on Na2SO4, filtered and concentrated in vacuo. The desired product was isolated by flash chromatography on silica gel (eluent ethyl acetate:petroleum ether=30:70) as a 1:1 mixture of rotamers by NMR:

reactant | methyl 5-(benzoyloxy)-2-{(2S,4R)-1-[(benzyloxy)carbonyl]-4-methoxypyrrolidin-2-yl}-6-hydroxypyrimidine-4-carboxylate | C(C1=CC=CC=C1)(=O)OC=1C(=NC(=NC1O)[C@H]1N(C[C@@H](C1)OC)C(=O)OCC1=CC=CC=C1)C(=O)OC | C26H25N3O8
reactant | LiH | 1.4 eq. | [H-].[Li+]
reactant | dimethyl sulphate | 1.3 eq. | S(=O)(=O)(OC)OC | C2H6O4S
reactant | HCl | 1 N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Methyl-5-(benzoyloxy)-2-{(2S,4R)-1-[(benzyloxy)carbonyl]-4-methoxypyrrolidin-2-yl}-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxylate | COC(=O)C=1N=C(N(C(C1OC(C1=CC=CC=C1)=O)=O)C)[C@H]1N(C[C@@H](C1)OC)C(=O)OCC1=CC=CC=C1 | C27H27N3O8
